US09359340B2
To a solution of the (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.106 g, 0.304 mmol) in DCM (20 mL) was added HCl (4M in dioxane, 4 mL). The mixture was stirred at room temperature overnight. The solvent was removed to afford (5R,7R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (0.098 g, 99%). MS (APCI+) [M+H] +249.

reactant | (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.304 mmol, 0.106 g | O[C@@H]1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C18H28N4O3
reactant | HCl | 4M, 4 mL | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (5R,7R)-5-methyl-4-((S)-2-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | 0.098 g, 99% | Cl.Cl.C[C@@H]1C[C@H](C=2N=CN=C(C21)N2[C@H](CNCC2)C)O | InChI=1S/C13H20N4O.2ClH/c1-8-5-10(18)12-11(8)13(16-7-15-12)17-4-3-14-6-9(17)2;;/h7-10,14,18H,3-6H2,1-2H3;2*1H/t8-,9+,10-;;/m1../s1
